US08609669B2
Methyl 2-aminopyrazolo[1,5-a]pyrimidine-3-carboxylate
Acetic acid (0.013 mL, 0.221 mmol) was added to a mixture of methyl 3,5-diamino-1H-pyrazole-4-carboxylate (689 mg, 4.41 mmol, prepared as described in J. Prakt. Chem. 1965, 27, 239-250) and 3-dimethylaminoacrylaldehyde (531 mg, 5.36 mmol) in EtOH (9 mL), and the mixture was heated at reflux for 22 hours, and then cooled to room temperature. The slurry was concentrated under vacuum, and the residue was dissolved in hot methanol (20 mL), allowed to cool to room temperature, then filtered and dried to provide the title compound, in sufficient purity for use in the next step. MS (ESI) m/z 193 (M+H)+.

reactant | Acetic acid | 0.221 mmol, 0.013 mL | C(C)(=O)O | C2H4O2
reactant | methyl 3,5-diamino-1H-pyrazole-4-carboxylate | 4.41 mmol, 689 mg | NC1=NNC(=C1C(=O)OC)N | C5H8N4O2
reactant | 3-dimethylaminoacrylaldehyde | 5.36 mmol, 531 mg | CN(C=CC=O)C | C5H9NO
solvent | EtOH | 9 mL | CCO | C2H6O
product | Methyl 2-aminopyrazolo[1,5-a]pyrimidine-3-carboxylate | NC1=NN2C(N=CC=C2)=C1C(=O)OC | C8H8N4O2
